US08039472B2
3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [(R)-4-{3-[4-((S)-2,3-dihydroxy-propoxy)-phenyl]-propyl}-imidazolidin-(2Z)-ylidene]-amide
To a stirred solution of 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [(R)-4-[3-(4-hydroxy-phenyl)-propyl]-imidazolidin-(2E)-ylidene]-amide (Ex. 17) (1.0 g, 2.57 mmol) in 1,4 dioxane (38 ml) at 50° C. is added in one portion 0.5 M KOH (5.3 ml, 2.7 mmol) followed by (S)-(−)-Glycidiol (0.170 ml, 2.57 mmol). The resulting mixture is heated at 50° C. for 18 hours and then further (S)-(−)-Glycidiol (0.07 ml, 1.05 mmol) is added in one portion. The resulting mixture is heated at 50° C. for 60 hours and then allowed to cool to room temperature. The solvent is removed in vacuo to afford an orange oil which is dissolved in EtOAc/MeOH 9:1 (100 ml) and washed with 1 M NaOH (50 ml). The organic layer is dried over Na2SO4 and the solvent is removed in vacuo to afford a brown/orange foam. Purification by chromatography (SiO2, DCM/MeOH/NH3) affords the title compound as a yellow foam; [M+H]+ 464; 1H NMR (400 MHz, DMSO-d6): 1.65-1.40 (m, 4H), 2.52 (m, 2H), 3.13 (dd, J=9.6, 7.1 Hz, 1H), 3.42 (br d, J=4.7 Hz, 2H), 3.62 (dd, J=9.6, 9.6 Hz, 1H), 3.76 (m, 1H), 3.78 (m, 1H), 3.80 (m, 1H), 3.94 (dd, J=9.5, 4.0 Hz, 1H), 4.62 (br s, 1H), 4.89 (br s, 1H), 6.68 (br s, 2H), 6.82 (d, J=8.5 Hz, 2H), 7.09 (d, J=8.5 Hz, 2H), 7.2-6.0 (br s, 1H), 8.18 (br s, 1H), 9.3-7.5 (br s, 1H),

reactant | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [(R)-4-[3-(4-hydroxy-phenyl)-propyl]-imidazolidin-(2E)-ylidene]-amide | 2.57 mmol, 1.0 g | OC1=CC=C(C=C1)CCC[C@H]1N\C(\NC1)=N\C(=O)C1=NC(=C(N=C1N)N)Cl | C17H20ClN7O2
reactant | KOH | 2.7 mmol, 0.5 M, 5.3 ml | [OH-].[K+]
solvent | 1,4 dioxane | 38 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc MeOH | 100 ml | CCOC(=O)C.CO
product | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [(R)-4-{3-[4-((S)-2,3-dihydroxy-propoxy)-phenyl]-propyl}-imidazolidin-(2Z)-ylidene]-amide | O[C@H](COC1=CC=C(C=C1)CCC[C@H]1N\C(\NC1)=N/C(=O)C1=NC(=C(N=C1N)N)Cl)CO | C20H26ClN7O4
